US08202885B2
rac-(1R*,2R*,4R*)-2-(2-{[3-(5,6-Dichloro-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol
Prepared according to procedures P2.2 to P2.3 in Example 21 using rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid and [3-(5,6-dichloro-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid | OC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)CC(=O)O | C16H18O3
reactant | [3-(5,6-dichloro-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | ClC1=CC2=C(NC(=N2)CCCNC)C=C1Cl | C11H13Cl2N3
product | rac-(1R*,2R*,4R*)-2-(2-{[3-(5,6-Dichloro-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | ClC1=CC2=C(NC(=N2)CCCN(CCC2(C3C=C(C(C2)CC3)C3=CC=CC=C3)O)C)C=C1Cl | C27H31Cl2N3O
